US09193736B2
To a solution of ethyl 3-hydroxycyclobutanecarboxylate (10.2 g, 78.4 mmol) in dry pyridine (56.5 mL) at 0° C., TsCl (14.9 g, 78.4 mml) was added portion-wise. The resulting mixture was stirred at rt overnight. The reaction mixture was concentrated in vacuo and the residue obtained was dissolved in EtOAc (100 mL) and sequentially washed with 2 N HCl (100 mL), saturated NaHCO3 (100 mL) and water (100 mL). The organic layer was dried over Na2SO4, filtered, and concentrated to obtain ethyl 3-(tosyloxy)cyclobutanecarboxylate as a pale yellow oil, which was used in the next step without further purification.

reactant | ethyl 3-hydroxycyclobutanecarboxylate | 78.4 mmol, 10.2 g | OC1CC(C1)C(=O)OCC | C7H12O3
reactant | TsCl | 14.9 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 56.5 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | ethyl 3-(tosyloxy)cyclobutanecarboxylate | S(=O)(=O)(C1=CC=C(C)C=C1)OC1CC(C1)C(=O)OCC | C14H18O5S
